US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(4-methyl-1,3-thiazol-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid (200 mg, 0.52 mmol), HATU (475 mg, 1.25 mmol) and 2-amino-4-methylthiazole (119 mg, 1.04 mmol) were suspended in DMF (2 mL). DIPEA (0.220 mL, 1.26 mmol) was then added and the reaction mixture stirred at RT for 16 hours. The DMF was removed in vacuo and water (15 mL) added. The mixture was extracted with ethyl acetate (3×20 mL) and the extracts combined, washed with water (15 mL), 1N hydrochloric acid (10 mL), water (10 mL), a saturated aqueous solution of sodium bicarbonate (10 mL), brine (10 mL), dried (MgSO4), filtered, and evaporated in vacuo. The residue was chromatographed on silica, eluting with a gradient of 60-100% ethyl acetate in isohexane, to give the desired compound (70 mg).

reactant | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 0.52 mmol, 200 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H]1COCC1 | C19H19N3O6
reactant | HATU | 1.25 mmol, 475 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-4-methylthiazole | 1.04 mmol, 119 mg | NC=1SC=C(N1)C | C4H6N2S
reactant | DIPEA | 1.26 mmol, 0.220 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(4-methyl-1,3-thiazol-2-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 70 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC=2SC=C(N2)C)C=C(C1)O[C@@H]1COCC1 | C23H23N5O5S
